US07037931B2
5-{3-[5-(3,4-Dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazole-3-yl]-2-m-tolyl-propylsulfanyl}-1H-[1,2,4]-triazole.
5-{3-[5-(3.4-Dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazole-3-yl]-2-m-tolyl-propylsulfanyl}-1H-1,2,4]-triazole. To a suspension of sodium hydride (4.0 mg, 60% dispersion in oil) in N,N-dimethylformamide (1.0 mL) at 0° C. was added a solution of 2H-[1,2,4]triazole-3-thiol (10.0 mg, 0.1 mmol, 1.1 equiv) in N,N-dimethylformamide (1.0 mL). The mixture was stirred at 0° C. for 30 min then a solution of 3-(3-bromo-2-m-tolyl-propyl)-5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazole (48 mg, 0.09 mmol, 1.0 equiv) in N,N-dimethylformamide (1.0 mL) was added. The reaction mixture was brought to room temperature then was stirred for 2 h. The reaction was quenched with satd aq ammonium chloride (1.0 mL), and the resulting mixture was diluted with water (10.0 mL), and extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with water (10 mL) then brine (10 mL), dried (Na2SO4), and concentrated under reduced pressure. The crude residue was purified by reversed-phase HPLC to yield the title compound (39 mg, 80%). HPLC: Rt=3.26 (Method B). MS (ESI): mass calculated for C28H25Cl2N5OS, 549.12; m/z found, 550.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 8.32 (br s, 1H), 7.50 (d, J=8.4 Hz, 1H), 7.35 (d, J=2.1 Hz, 1H), 7.07-7.0 (m, 5H), 6.95 (dd, J=8.4, 21. HZ, 2H), 6.89 (d, J=9.0 Hz, 2H), 6.31 (s, 1H), 3.70 (s, 3H), 3.48 (dd, J=12.9, 6.3 Hz, 1H), 3.36 (dd, J=12.7, 8.2 Hz, 1H), 3.26 (m, 1H), 3.07 (dd, J=14.9, 6.4 Hz, 1H), 2.91 (dd, J=14.9, 8.2 Hz, 1H), 2.21 (s, 3H).

reactant | triazole | N1N=NC=C1 | C2H3N3
reactant | sodium hydride | 4.0 mg | [H-].[Na+]
reactant | 2H-[1,2,4]triazole-3-thiol | 0.1 mmol, 10.0 mg, 1.1 equiv | N=1NC(=NC1)S | C2H3N3S
reactant | 3-(3-bromo-2-m-tolyl-propyl)-5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazole | 0.09 mmol, 48 mg, 1.0 equiv | BrCC(CC1=NN(C(=C1)C1=CC(=C(C=C1)Cl)Cl)C1=CC=C(C=C1)OC)C=1C=C(C=CC1)C | C26H23BrCl2N2O
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 5-{3-[5-(3,4-Dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazole-3-yl]-2-m-tolyl-propylsulfanyl}-1H-[1,2,4]-triazole | 39 mg, 80% | ClC=1C=C(C=CC1Cl)C1=CC(=NN1C1=CC=C(C=C1)OC)CC(CSC1=NC=NN1)C=1C=C(C=CC1)C | C28H25Cl2N5OS
